US04730003
2-n-Hexyl-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 11, from 0.48 g. 5,6-diamino-3,3-dimethylindolin-2-one and 0.36 g. oenanthic acid, after heating with 4.5 g. polyphosphoric acid for 30 minutes at a bath temperature of 200° C., there is obtained 0.7 g. of crude product which is dissolved in 35 ml. ethanol, treated with active charcoal, filtered and the clear filtrate evaporated in a vacuum. The evaporation residue, after trituration with diethyl ether, gives 0.37 g. of the title compound in the form of the monohydrate; m.p. 233°-234° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | oenanthic acid | CCCCCCC(=O)O | C7H14O2
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Hexyl-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(CCCCC)C=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C17H23N3O
